US06852731B2
N-(4-chlorobenzyl)-2-{[(2-hydroxy-2-pyridin-3-ylethyl)(methyl)amino]methyl}-3,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide
A mixture of N-(4-chlorobenzyl)-2-(chloromethyl)-3,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide (100 mg, 0.25 mmol), 2-(methylamino)-1-pyridin-3-ylethanol hydrobromide (Arch. Pharm. 1961, 294 453-68)(89 mg, 0.38 mmol) and diisopropylethylamine (134 μL, 0.76 mmol) in dry DMF (5.0 mL) was stirred for 30 hours at room temperature. The solution was diluted with water (15 mL). The resulting milky suspension was stirred vigorously for 30 minutes, and then left standing overnight at room temp. The mixture was filtered, and the collected solid was washed with water and dried in vacuo, leaving a white solid. Recrystallization from acetonitrile (10 mL, dissolved with warming and then cooled to 0° C. overnight) gave the title compound (87 mg) as a white solid.

reactant | N-(4-chlorobenzyl)-2-(chloromethyl)-3,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide | 0.25 mmol, 100 mg | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)C)C(=C(S3)CCl)C)=O)C=C1 | C18H16Cl2N2O2S
reactant | 2-(methylamino)-1-pyridin-3-ylethanol hydrobromide | 0.38 mmol, 89 mg | Br.CNCC(O)C=1C=NC=CC1
reactant | diisopropylethylamine | 0.76 mmol, 134 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
solvent | water | 15 mL | O | H2O
product | N-(4-chlorobenzyl)-2-{[(2-hydroxy-2-pyridin-3-ylethyl)(methyl)amino]methyl}-3,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide | 87 mg | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)C)C(=C(S3)CN(C)CC(C=3C=NC=CC3)O)C)=O)C=C1 | C26H27ClN4O3S
